US06765012B2
3-{[4-(3-Diethylamino-propoxy)-phenylamino]-methylene}-4-methyl-1,3-dihydro-indol-2-one
To a solution of 4-(3-diethylamino-propoxy)-phenylamine (913 mg, 1.3 equiv.) in THF (14 mL) is added 4-methyl-3-hydroxymethylene-1,3-dihydro-indol-2-one (554 mg, 3.17 mmol) in one portion. The resulting reaction mixture is stirred and heated at 72° C. overnight. The reaction solution is cooled to room temperature and partitioned between EtOAc:H2O. The organic layer is collected and washed with saturated aqueous NaHCO3 and dried over anhydrous Na2SO4. The organic phase is filtered and concentrated. The residue obtained is triturated with 1:4 EtOAc:hexane to give the named compound as a yellow solid (625.8 mg, 52%).

reactant | 4-(3-diethylamino-propoxy)-phenylamine | 913 mg, 1.3 equiv. | C(C)N(CCCOC1=CC=C(C=C1)N)CC | C13H22N2O
reactant | 4-methyl-3-hydroxymethylene-1,3-dihydro-indol-2-one | 3.17 mmol, 554 mg | CC1=C2C(C(NC2=CC=C1)=O)=CO | C10H9NO2
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | 3-{[4-(3-Diethylamino-propoxy)-phenylamino]-methylene}-4-methyl-1,3-dihydro-indol-2-one | 625.8 mg, 52% | C(C)N(CCCOC1=CC=C(C=C1)NC=C1C(NC2=CC=CC(=C12)C)=O)CC | C23H29N3O2
